US07601856B2
Following the procedure of Example 1, 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine (0.80 g, 3.7 mmol), chloroacetyl chloride (0.31 mL, 3.9 mmol), and pyridine (0.60 mL, 7.4 mmol) in dichloroethane (25 mL) provided 2-chloro-N-6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-ylacetamide (1.1 g). MS (ESI) m/z 292 ([M+H]+).

reactant | 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine | 3.7 mmol, 0.80 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)N | C14H17NO
reactant | chloroacetyl chloride | 3.9 mmol, 0.31 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | pyridine | 7.4 mmol, 0.60 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloroethane | 25 mL | ClC(C)Cl | C2H4Cl2
product | 2-chloro-N-6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-ylacetamide | 1.1 g | ClCC(=O)NC1=CC2=C(OC3=C2CCCCCC3)C=C1 | C16H18ClNO2
